US07888376B2
At 0° C., to a solution of (S)-N-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-4,4,4-trifluoro-3-(trifluoromethyl)but-2-enamide (260 mg, 0.41 mmol) and 4-phenyl pyridine N-oxide (56 mg, 0.33 mmol) in acetonitrile (16 mL) was added NaOCl solution (363 uL, chlorine wt % 10-3%, 1.23 mmol). The reaction mixture was stirred at 0° C. for 10 min, then at room temperature for 1 h. After removal of the solvents in vacuo the residue was diluted with EtOAc (30 mL) and the solution washed with saturated Na2SO3 (30 mL), dried over MgSO4, filtered and concentrated. The residue was purified by ISCO chromatography (40 g column, flow rate 20 mL/min) using hexanes/EtOAc (0-10% over 30 min) to give N-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-3,3-bis(trifluoromethyl)oxirane-2-carboxamide as a diastereomer mixture at a retention time of 27-35 min (243.9 mg, 92% yield). The diastereomeric mixture was separated by Chiral preparative HPLC chiralpak AD 20μ column, 5×50 cm, eluting with 10% IPA/Heptane with flow rate 50 mL/min.

reactant | (S)-N-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-4,4,4-trifluoro-3-(trifluoromethyl)but-2-enamide | 0.41 mmol, 260 mg | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(C=C(C(F)(F)F)C(F)(F)F)=O | C26H16ClF11N2O2
reactant | 4-phenyl pyridine N-oxide | 0.33 mmol, 56 mg | C1(=CC=CC=C1)C1=CC=[N+](C=C1)[O-] | C11H9NO
reactant | NaOCl | 1.23 mmol, 363 uL | [O-]Cl.[Na+]
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
product | N-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-3,3-bis(trifluoromethyl)oxirane-2-carboxamide | 92% yield | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(=O)C1OC1(C(F)(F)F)C(F)(F)F | C26H16ClF11N2O3
